US05998436
Synthesis of 4-amino-2,5-difluoropyridine
To 40 ml of methanol were added 4.5 g of 4-amino-2,5-dichloro-3,6-difluoropyridine and 4.5 g of triethylamine together with 0.40 g of 10% palladium carbon, and the mixture was hydrogenated at 50° C. for 12 days. The catalyst was separated by filtration, and the solvent and the like were distilled off under reduced pressure. To the residue was added 100 ml of chloroform, and the mixture was washed with 10 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue were added 1.5 g of triethylamine, 0.35 g of 10% palladium on carbon, and 30 ml of methanol, and the mixture was hydrogenated at 50° C. for 41 hours. The catalyst was separated by filtration, and the solvent and the like were distilled off under reduced pressure. To the residue was added 100 ml of chloroform, and the mixture was washed with 10 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 2.67 g of the title compound as precipitate as a colorless solid.

reactant | methanol | 40 ml | CO | CH4O
reactant | 4-amino-2,5-dichloro-3,6-difluoropyridine | 4.5 g | NC1=C(C(=NC(=C1Cl)F)Cl)F | C5H2Cl2F2N2
catalyst | palladium carbon | 0.40 g | [C].[Pd]
solvent | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
product | 4-amino-2,5-difluoropyridine | 2.67 g | NC1=CC(=NC=C1F)F | C5H4F2N2
